US08404649B2
Preparation 8: 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(2-hydroxyethyl)-1-naphthamide
To a solution of 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-1-naphthoic acid (Preparation 7, 1 g, 2.1 mmol) in DMF (35 mL) was added HATU (970 mg, 2.5 mmol) and triethylamine (1.0 mL, 7.0 mmol). The reaction was stirred at room temperature for 15 minutes then treated with 2-amino-ethanol (145 mg, 2.4 mmol). The reaction was stirred at room temperature for 2 hours. Next, the reaction was diluted with 0.1N NaOH and extracted with EtOAc (2×150 mL). The combined organic phase was dried (Na2SO4) and concentrated under vacuum. The crude material was chromatographed (80 g Redi-Sep column) eluting from 100% heptane to 40:60 EtOAc:heptane to afford the intermediate (734 mg, 67%) as a solid. 1HNMR (CDCl3) δ ppm: 8.82 (1H), 8.33 (1H), 7.76-7.60 (5H), 7.50 (1H), 6.51 (1H) 4.28 (1H), 3.94-3.83 (3H), 3.76 (2H), 2.35 (1H); m/z (Cl) 515 [M+H]+.

reactant | 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-1-naphthoic acid | 2.1 mmol, 1 g | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)O)C(F)(F)F | C21H11Cl2F4NO3
reactant | HATU | 2.5 mmol, 970 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 7.0 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-ethanol | 2.4 mmol, 145 mg | NCCO | C2H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | NaOH | 0.1N | [OH-].[Na+]
product | 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(2-hydroxyethyl)-1-naphthamide | 734 mg, 67% | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NCCO)C(F)(F)F | C23H16Cl2F4N2O3
